US06632810B2
Synthesis of N,N′-bis[(5,6,7-trimethoxybenzoxazol-2-yl)methyl]piperazine:
2-Chloromethyl-5,6,7-trimethoxybenzoxazole (156 mg) and piperazine (23 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-5,6,7-trimethoxybenzoxazole | 156 mg | ClCC=1OC2=C(N1)C=C(C(=C2OC)OC)OC | C11H12ClNO4
reactant | piperazine | 23 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[(5,6,7-trimethoxybenzoxazol-2-yl)methyl]piperazine | COC=1C(=C(C2=C(N=C(O2)CN2CCN(CC2)CC=2OC3=C(N2)C=C(C(=C3OC)OC)OC)C1)OC)OC | C26H32N4O8
